US08729061B2
(2S,3S)-3-Amino-2-hydroxy-N-phenethylpentanamide
The title compound was prepared in analogy to (2S,3S)-3-amino-N-cyclopropyl-2-hydroxypentanamide, Representative Procedure B, using 2-phenylethanamine in the seventh step (step B7).

reactant | (2S,3S)-3-amino-N-cyclopropyl-2-hydroxypentanamide | N[C@H]([C@@H](C(=O)NC1CC1)O)CC | C8H16N2O2
reactant | 2-phenylethanamine | C1(=CC=CC=C1)CCN | C8H11N
product | (2S,3S)-3-Amino-2-hydroxy-N-phenethylpentanamide | N[C@H]([C@@H](C(=O)NCCC1=CC=CC=C1)O)CC | C13H20N2O2
